US07528147B2
0.465 g of powdered potassium hydroxide is added to a solution of 0.5 g of 5,6-dimethoxy-1H-indole in 15 ml of dimethylformamide. A solution of 0.725 g of bisublimated iodine in 15 ml of dimethylformamide is added dropwise to the above mixture. After agitation of the reaction medium for approximately 3 hours at a temperature in the region of 20° C., 0.21 ml of iodomethane is added dropwise, maintaining the mixture at this same temperature by cooling using a water bath. After agitation at around 20° C. for 1 hour 30 minutes, the mixture is run into a solution of 1.5 g of sodium thiosulfate in 150 ml of water cooled to around 5° C., and agitated for approximately 10 minutes. The precipitate is filter-dried, washed with five times 5 ml of water cooled to around 5° C., and then dried under vacuum (13 kPa) over phosphorus pentaoxide. 0.78 g of 3-iodo-5,6-dimethoxy-1-methyl-1H-indole is obtained in the form of a solid, the characteristics of which are as follows:

reactant | potassium hydroxide | 0.465 g | [OH-].[K+]
reactant | 5,6-dimethoxy-1H-indole | 0.5 g | COC=1C=C2C=CNC2=CC1OC | C10H11NO2
reactant | iodine | 0.725 g | II | I2
reactant | iodomethane | 0.21 ml | IC | CH3I
reactant | sodium thiosulfate | 1.5 g | S(=S)(=O)([O-])[O-].[Na+].[Na+]
reactant | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
reactant | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | water | 150 ml | O | H2O
product | 3-iodo-5,6-dimethoxy-1-methyl-1H-indole | 0.78 g | IC1=CN(C2=CC(=C(C=C12)OC)OC)C | C11H12INO2
